### PR TITLE
Solving RootsOfBooleanFunctions challenge

### PR DESCRIPTION
**Pull request by Seiryn21**
Here is a proof of `ε-formula' n` and `ε-formula n` being equals, and the proof of  `ε-formula' n` correctness via transport

### CODE REVIEW

File: source/Various/RootsOfBooleanFunctions.lagda [hunk 1]
```diff
@@ -510,9 +510,163 @@ hypothesis to prove the correctness of ε-formula'. We did find such a
...
 for that reason.
 
-Challenges. (1) Find an elegant proof that the function ε-formula'
-gives a formulate for putative roots. (2) Moreover, show that
-ε-formula' = ε-formula.
+Alice Laroche, 1st June 2023
 
-It may be that it is easier to prove (2) and then deduce (1), rather
-than prove (1) directly. We haven't tried that.
+We can however prove both definitions are equals, and from that deduce
```
Comment (martinescardo) [inline source/Various/RootsOfBooleanFunctions.lagda:515]: equals -> equal

File: source/Various/RootsOfBooleanFunctions.lagda [hunk 2]
```diff
@@ -510,9 +510,163 @@ hypothesis to prove the correctness of ε-formula'. We did find such a
...
+
+𝕞𝕒𝕡 f O = O
+𝕞𝕒𝕡 f (𝕗 es) = 𝕗 (f (𝕞𝕒𝕡s f es))
+
+𝕞𝕒𝕡s f ⟨⟩ = ⟨⟩
+𝕞𝕒𝕡s f (e , es) = 𝕞𝕒𝕡 f e , 𝕞𝕒𝕡s f es
+
+\end{code}
+
+Notice that 𝕔𝕠𝕟𝕤 and 𝕔𝕠𝕟𝕤 are more refined versions of 𝕞𝕒𝕡 and 𝕞𝕒𝕡s
```
Comment (martinescardo) [inline source/Various/RootsOfBooleanFunctions.lagda:534]: Add blank line after and before code environment.

File: source/Various/RootsOfBooleanFunctions.lagda [hunk 3]
```diff
@@ -510,9 +510,163 @@ hypothesis to prove the correctness of ε-formula'. We did find such a
...
+
+unroll-εᵉ : {n : ℕ}
+          → (e₀ : E (succ n))
+          → εᵉ (𝕗 ∘ (cons e₀)) ＝ 𝕔𝕠𝕟𝕤s e₀ (εᵉ 𝕗)
+unroll-εᵉ e₀ = unroll-εᵉ-lemma (cons e₀) ∙ 𝕞𝕒𝕡s-cons-𝕔𝕠𝕟𝕤s e₀ (εᵉ 𝕗)
+
+\end{code}
+
+From there we can show that ε-formula' n and ε-formula n are indeed
+equals.
```
Comment (martinescardo) [inline source/Various/RootsOfBooleanFunctions.lagda:624]: equals -> equal.

(Additionally, "From  there" probably is better replaced by "From this".)

File: source/Various/RootsOfBooleanFunctions.lagda [hunk 4]
```diff
@@ -510,9 +510,163 @@ hypothesis to prove the correctness of ε-formula'. We did find such a
...
+      c₀ , (𝕔𝕠𝕟𝕤s c₀ (ε-formula n))  ＝⟨ III ⟩
+      c₁ , (𝕔𝕠𝕟𝕤s c₁ (ε-formula n))  ＝⟨ refl ⟩
+      ε-formula (succ n) ∎
+   where
+    I = ap (c₀ ,_) (unroll-εᵉ c₀)
+    II = ap (λ x → c₀ , (𝕔𝕠𝕟𝕤s c₀ x)) (formulas-are-equal n)
+    III = ap (λ x → x , (𝕔𝕠𝕟𝕤s x (ε-formula n))) c₀-property
+\end{code}
+
+It then follow immediatly the correctness of ε-formula' n by
```
Comment (martinescardo) [inline source/Various/RootsOfBooleanFunctions.lagda:661]: "follow" -> "follows".

"immediatly" -> "immediately".

You probably want to rephrase this as "It then follows immediately by transport that ε-formula' is correct".

**Review by martinescardo — APPROVED** [review]
Great! Thanks a lot. Your code is elegant and follows the TypeTopology guidelines.

I've just made minor corrections in the comments only, that you may wish to implement in a second pull request.

**Comment by martinescardo** [comment]
Thanks again for your contribution! Feel free to contribute to `TypeTopology`.
